US05506234
1.06 g (0.0028 mol) of 5-(2-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carbaldehyde-oxime in 25 ml tetrahydrofuran is mixed with 10 ml of sodium hypochlorite solution at 35° C. under argon. After 20 minutes no more initial material can be detected by thin-layer chromatography. 0.32 ml (0.004 mol) of methylpropargylether is instilled at room temperature and it is stirred for 3 more hours. After being left standing overnight it is diluted with ethyl acetate, washed neutral with water, dried and concentrated by evaporation. The residue is chromatographically separated on silica gel with a mixture of 2 parts tetrahydrofuran and one part of toluene. First a fraction is isolated, which after recrystallization from a dichloromethane/cyclohexane mixture yields 0.1 g (8% of theory) of 5-(2-chlorobenzyl)-4-methoxymethyl-3-(5-methoxymethylisoxazol-3-yl)-β-carboline, melting point 178°-180° C.

reactant | 5-(2-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carbaldehyde-oxime | 0.0028 mol, 1.06 g | ClC1=C(CC2=C3C=4C(=C(N=CC4NC3=CC=C2)C=NO)COC)C=CC=C1 | C21H18ClN3O2
reactant | sodium hypochlorite | 10 ml | Cl[O-].[Na+]
reactant | methylpropargylether | 0.004 mol, 0.32 ml | COCC#C | C4H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorobenzyl)-4-methoxymethyl-3-(5-methoxymethylisoxazol-3-yl)-β-carboline | 0.1 g, 8% | ClC1=C(CC2=C3C=4C(=C(N=CC4NC3=CC=C2)C2=NOC(=C2)COC)COC)C=CC=C1 | C25H22ClN3O3
